US07012075B2
To a solution of 715 mg (3.2 mmol) of methyl 1-bromocyclohexane-1-carboxylate (J. Med. Chem. 1970, 13, 317) in MeOH (5 mL) was added diisopropylethylamine (0.9 mL, 5.2 mmol) and 2-bromobenzenethiol (0.55 mL, 4.7 mmol). The solution was heated to 65° C. under nitrogen for 2 h, then cooled and partitioned between ethyl acetate and 1 M HCl. The organic phase was washed twice with 1 M NaOH and brine, then dried over MgSO4 and concentrated. Purification by flash chromatography (10% EtOAc/hexanes) gave methyl 1-[(2-bromophenyl)sulfanyl]cyclohexanecarboxylate.

reactant | methyl 1-bromocyclohexane-1-carboxylate | 3.2 mmol, 715 mg | BrC1(CCCCC1)C(=O)OC | C8H13BrO2
reactant | diisopropylethylamine | 5.2 mmol, 0.9 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-bromobenzenethiol | 4.7 mmol, 0.55 mL | BrC1=C(C=CC=C1)S | C6H5BrS
solvent | MeOH | 5 mL | CO | CH4O
product | methyl 1-[(2-bromophenyl)sulfanyl]cyclohexanecarboxylate | BrC1=C(C=CC=C1)SC1(CCCCC1)C(=O)OC | C14H17BrO2S
